US07851473B2
N-1,2-Benzisoxazol-3-yl-4-[3-(4-glycylpiperazin-1-yl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide dihydrochloride
A solution of tert-butyl {2-[4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazin-1-yl]-2-oxoethyl}carbamate (70.0 mg, 0.122 mmol) and a solution of 2 N hydrogen chloride in methanol (5 ml) in tetrahydrofuran (5 ml) was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of methanol and diethyl ether to give 60.0 mg (90.4%) of the desired product as a solid.

reactant | tert-butyl {2-[4-(5-{4-[(1,2-benzisoxazol-3-ylamino)carbonyl]piperazin-1-yl}-1,2,4-thiadiazol-3-yl)piperazin-1-yl]-2-oxoethyl}carbamate | 0.122 mmol, 70.0 mg | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCN(CC2)C(CNC(OC(C)(C)C)=O)=O | C25H33N9O5S
reactant | hydrogen chloride | 2 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-1,2-Benzisoxazol-3-yl-4-[3-(4-glycylpiperazin-1-yl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide dihydrochloride | 60.0 mg, 90.4% | Cl.Cl.O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)N2CCN(CC2)C(CN)=O | InChI=1S/C20H25N9O3S.2ClH/c21-13-16(30)26-5-7-27(8-6-26)18-23-20(33-25-18)29-11-9-28(10-12-29)19(31)22-17-14-3-1-2-4-15(14)32-24-17;;/h1-4H,5-13,21H2,(H,22,24,31);2*1H
